US05356897
A mixture of 1-(4-fluorophenyl)-2-(pyridin-4-yl)-ethan-1-one (5.12 g) and N,N-dimethylformamide dimethyl acetal (16 ml) was stirred at 100° C. for 3 hours under nitrogen. The cooled mixture was concentrated in vacuo. The residue was crystallized from isopropyl ether to yield 3-dimethylamino-1-(4-fluorophenyl)-2-(pyridin-4-yl)-2-propen-1-one (6.15 g).

reactant | 1-(4-fluorophenyl)-2-(pyridin-4-yl)-ethan-1-one | 5.12 g | FC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C13H10FNO
reactant | N,N-dimethylformamide dimethyl acetal | 16 ml | COC(N(C)C)OC | C5H13NO2
product | 3-dimethylamino-1-(4-fluorophenyl)-2-(pyridin-4-yl)-2-propen-1-one | 6.15 g | CN(C=C(C(=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)C | C16H15FN2O
